US04740561
In 200 ml of methyl ethyl ketone were dissolved 18.14 g of maleic anhydride and 21.86 g of α-methylstyrene, and to the solution was added 1.82 g of azobisisobutylnitrile (AIBN). The resulting mixture was heated at 60° C. for 7 hours under nitrogen atmosphere for performing polymerization. The reaction solution was then dropwise added to 500 ml of ethyl ether under stirring to precipitate a polymer. Thus precipitated polymer was collected by filtration and purified by repeating twice the THF dissolution-ethyl ether precipitation procedure described in Example 1. Thus purified polymer was dried under vacuum at 100° C. for 24 hours to give 17.0 g of a maleic anhydride-styrene copolymer. It was confiremed by elementary analysis that the copolymerization ratio was approximately 1:1. Mn was 11,730.

reactant | maleic anhydride | 18.14 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | α-methylstyrene | 21.86 g | CC(=C)C1=CC=CC=C1 | C9H10
reactant | ethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | maleic anhydride-styrene copolymer | 17.0 g | C=CC1=CC=CC=C1.C1=CC(=O)OC1=O | InChI=1S/C8H8.C4H2O3/c1-2-8-6-4-3-5-7-8;5-3-1-2-4(6)7-3/h2-7H,1H2;1-2H
